US06376527B1
Into an oven dried flask containing magnesium turnings (0.386 g, 15.9 mmol) and tetrahydrofuran (10 ml) was added 3-(2-tert-butyldimethylsiloxyethyl)bromobenzene (5.0 g, 15.9 mmol) and the reaction mixture was heated at reflux. After 3 h, the reaction mixture was cooled to room temperature and 5-amino-1-(4-fluorophenyl)-4-(2-pyridylthiocarboxy)pyrazole (2.37 g, 7.6 mmol) was added and the stirring was continued for 16 h. The reaction mixture was concentrated in vacuo. The residue was dissolved in ethyl acetate and washed with aqueous ammonium chloride and brine and dried over sodium sulfate. The organics were removed in vacuo and the residue was purified by flash chromatography (elution gradient: 10-30% ethyl acetate/hexane) to give 5-amino-1-(4-fluorophenyl)-4-[3-(2-tert-butyldimethylsiloxyethyl)benzoyl]pyrazole (1.20 g).

reactant | magnesium | 15.9 mmol, 0.386 g | [Mg] | Mg
reactant | 3-(2-tert-butyldimethylsiloxyethyl)bromobenzene | 15.9 mmol, 5.0 g | O([Si](C)(C)C(C)(C)C)CCC=1C=C(C=CC1)Br | C14H23BrOSi
reactant | 5-amino-1-(4-fluorophenyl)-4-(2-pyridylthiocarboxy)pyrazole | 7.6 mmol, 2.37 g | NC1=C(C=NN1C1=CC=C(C=C1)F)C(=S)OC1=NC=CC=C1 | C15H11FN4OS
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-amino-1-(4-fluorophenyl)-4-[3-(2-tert-butyldimethylsiloxyethyl)benzoyl]pyrazole | 1.20 g | NC1=C(C=NN1C1=CC=C(C=C1)F)C(C1=CC(=CC=C1)CCO[Si](C)(C)C(C)(C)C)=O | C24H30FN3O2Si
